US08802858B2
3-(4-{1-[2-(4-Amino-phenyl)-2-oxo-ethyl]-1H-benzoimidazol-2-yl}-furazan-3-ylamino)-propionitrile
To a suspension of 6.4 g of [4-(2-{2-[4-(2-cyano-ethylamino)-furazan-3-yl]-benzoimidazol-1-yl}-acetyl)-phenyl]-carbamic acid benzyl ester (12.3 mmol, 1 eq) in a mixture of 700 ml of ethyl acetate and 500 ml of methanol are added 1.3 g of 10% palladium on carbon. The reaction mixture is stirred for 3 h under hydrogen atmosphere (1 atm) at room temperature. Then it is filtered through celite and concentrated under reduced pressure to give the crude product as a light yellow solid, which is suspended in 60 ml of a 7/5 ethyl acetate/methanol mixture. Filtration provides 3.5 g of the desired product as off-white solid. The filtrate is concentrated and the residue is treated as above with 5 ml of the 7/5 ethyl acetate/methanol mixture. Filtration gives 0.45 g of a second crop of the product.

reactant | [4-(2-{2-[4-(2-cyano-ethylamino)-furazan-3-yl]-benzoimidazol-1-yl}-acetyl)-phenyl]-carbamic acid benzyl ester | 12.3 mmol, 6.4 g, 1 eq | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)C(CN1C(=NC2=C1C=CC=C2)C2=NON=C2NCCC#N)=O)=O | C28H23N7O4
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium on carbon | 1.3 g | [Pd] | Pd
product | 3-(4-{1-[2-(4-Amino-phenyl)-2-oxo-ethyl]-1H-benzoimidazol-2-yl}-furazan-3-ylamino)-propionitrile | 3.5 g | NC1=CC=C(C=C1)C(CN1C(=NC2=C1C=CC=C2)C=2C(=NON2)NCCC#N)=O | C20H17N7O2
